US06664271B1
Commercially available ethyl-3-pyridylacetate (4.04 g; 24.5 mmol) was dissolved in absolute ethanol (100 ml). L(+) tartaric acid (3.67 g; 24.5 mmol) and platinum oxide (546.1 mg; 2.4 mmol) were added, and the partial suspension was placed under hydrogen gas at 50 psi with shaking for 24 hours. The hydrogen was removed, and the mixture was then filtered through celite to remove the catalyst. The filtrate was evaporated at ambient temperature under reduced pressure to a small volume. This residue was diluted with saturated sodium bicarbonate solution and extracted with ethyl acetate. The aqueous solution was then basified with 1 N sodium hydroxide and extracted with fresh ethyl acetate. The ethyl acetate extracts were combined, dried with anhydrous potassium carbonate, and evaporated at ambient temperature under reduced pressure, giving ethyl 3-piperidinylacetate (2.96 g) as a very pale yellow oil without further purification. MS m/z (positive ion) 172 (MH+; 100).

reactant | ethyl-3-pyridylacetate | 24.5 mmol, 4.04 g | C(C)OC(CC=1C=NC=CC1)=O | C9H11NO2
reactant | L(+) tartaric acid | 24.5 mmol, 3.67 g | C([C@H](O)[C@@H](O)C(=O)O)(=O)O | C4H6O6
solvent | ethanol | 100 ml | C(C)O | C2H6O
catalyst | platinum oxide | 2.4 mmol, 546.1 mg | [Pt]=O
product | ethyl 3-piperidinylacetate | 2.96 g | N1CC(CCC1)CC(=O)OCC | C9H17NO2
